US07825128B2
a) Preparation of 2-bromo-1-methylsulphanyl-4-nitro-benzene
A solution of 25.7 g (120 mmol) 2-bromo-1-fluoro-4-nitrobenzene in 154 ml DMF is treated with 10.6 g (150 mmol) sodium thiomethylate and stirred for 5 hours at 60° C. The mixture is stirred at room temperature for 18 hours, again treated with 1.0 g sodium thiomethylate and stirred for a further 6 hours at 60° C. After cooling, the mixture is poured into ice-water and extracted with ethyl acetate (3×). The combined organic phases are washed with water, dried (Na2SO4), filtered and concentrated. The residue obtained is chromatographically purified (hexane/ethyl acetate 2:1). 20.4 g (82 mmol, corresponding to 70% of theor.) of the product is obtained.

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 120 mmol, 25.7 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | sodium thiomethylate | 150 mmol, 10.6 g | C[S-].[Na+]
reactant | sodium thiomethylate | 1.0 g | C[S-].[Na+]
solvent | DMF | 154 ml | CN(C)C=O | C3H7NO
product | 2-bromo-1-methylsulphanyl-4-nitro-benzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])SC | C7H6BrNO2S
